US05965730
To methylene chloride (120 ml) are added 3-(3,4-dimethoxyphenyl)alanine ethyl ester (12.4 g), 2-bromoisonicotinic acid (10.9 g), 1-hydroxybenzotriazole monohydrate (8.23 g) and 1,3-dicyclohexylcarbodiimide (11.1 g), and the mixture is stirred at room temperature overnight. The insoluble materials are removed by filtration, and the filtrate is concentrated. The residue is purified by silica gel chromatography (solvent; chloroform:acetone=10:1) to give N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)alanine ethyl ester (13.9 g) as an oily product.

reactant | 3-(3,4-dimethoxyphenyl)alanine ethyl ester | 12.4 g | C(C)OC([C@@H](N)CC1=CC(=C(C=C1)OC)OC)=O | C13H19NO4
reactant | 2-bromoisonicotinic acid | 10.9 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 1-hydroxybenzotriazole monohydrate | 8.23 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 11.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)alanine ethyl ester | 13.9 g | C(C)OC([C@@H](NC(C1=CC(=NC=C1)Br)=O)CC1=CC(=C(C=C1)OC)OC)=O | C19H21BrN2O5
